US08247408B2
A solution of 4M HCl in dioxane (3 mL) was added to a solution of tert-butyl 4-(4-(8-ethyl-4-methyl-7-oxo-6-(thiazol-2-yl)-7,8-dihydropyrido[2,3-d]pyrimidin-2-ylamino)phenyl)piperazine-1-carboxylate (99 mg, 0.181 mmol) in anhydrous methanol. After one h, a precipitate formed which was collected by vacuum filtration and identified as 8-ethyl-4-methyl-2-[(4-piperazin-1-ylphenyl)amino]-6-(1,3-thiazol-2-yl)pyrido[2,3-d]pyrimidin-7(8H)-one (60 mg, 74% yield) as the HCl salt; MS calculated for C23H25N7OS.HCl: 447.5645, MS (EI) observed 448.1 (MH+).

reactant | HCl | 4M | Cl | ClH
reactant | tert-butyl 4-(4-(8-ethyl-4-methyl-7-oxo-6-(thiazol-2-yl)-7,8-dihydropyrido[2,3-d]pyrimidin-2-ylamino)phenyl)piperazine-1-carboxylate | 0.181 mmol, 99 mg | C(C)N1C(C(=CC2=C1N=C(N=C2C)NC2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)C=2SC=CN2)=O | C28H33N7O3S
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | 8-ethyl-4-methyl-2-[(4-piperazin-1-ylphenyl)amino]-6-(1,3-thiazol-2-yl)pyrido[2,3-d]pyrimidin-7(8H)-one | 60 mg, 74% yield | C(C)N1C(C(=CC2=C1N=C(N=C2C)NC2=CC=C(C=C2)N2CCNCC2)C=2SC=CN2)=O | C23H25N7OS
